Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea and vomiting
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
CC: ___ vomiting and ___

HPI: Cyclic vomiting episodes since ___

The patient is a ___ year old male with type I Dm since age ___. He 
was in good health until ___ when he developed cyclic 
vomiting syndrome in the setting of MJ use. He has been 
abstinent since ___ but continues to have episodes of 
protracted vomiting without warning after becoming nauseous. He 
does not have hematemesis. He also denies fevers, chills, 
abdominal pain or diarrhea. He denies any other substance abuse. 
He has lost twenty pounds since this began. He has had multiple 
imaging studies including gastric emptying study which was 
normal, MRI of brain on ___ which was normal per his mother 
along with abdominal CT scans and endoscopy. All of this 
evaluation was done at ___ in ___. Given his lack of 
progress and the debilitating nature of these attacks, his PCP 
requested that he be seen in ___ for further evaluation. He 
came today for that evaluation and stood on the scale to be 
weighed. When he stood on the scale he developed persistent 
nausea and vomiting such that Dr. ___ him to 
the ED. His current began around 1300. In the ED his mother 
provided history. Patient alert but not responding to questions 
verbally. Will answer yes and no with gestures. 
His mother also adds that some episodes respond to compazine and 
benadryl. Symptoms have been worsened previously with Ativan and 
reglan.

He also had a gastric biopsy performed for evidence of 
gastroparesis.
.
T1DM, on insulin pump. ICU admission in ___ at ___ 
___ for DKA triggered by an episode. He has been admitted 
to the ICU several times for this. 
.
He has lost 20 lbs since this began. He is unable to work since 
his episodes can last 22 days. His quality of life is poor per 
his mother. 
In ER: ___ Vitals:
0 | 99 |142/92 | 16 |100% RA  ) 
Meds Given: 
Fluids given: 
___ 15:25 IVF 1000 mL NS 1000 mL ___  
___ 16:03 IV Ondansetron 4 mg ___  
___ 16:06 IV DiphenhydrAMINE 50 mg ___  
___ 16:07 IVF 1000 mL NS 1000 mL ___  
___ 17:20 IVF 40 mEq Potassium Chloride / 1000 mL NS  
___ Started 250 mL/hr 

Radiology Studies: None
consults called: none- GI MD - ___- Dr. ___
.

PAIN SCALE: ___ 
REVIEW OF SYSTEMS:
 CONSTITUTIONAL:  As per HPI
 RESPIRATORY:  [X] All normal
 CARDIAC:  [X] All normal
 GI:  As per HPI
 GU:  [X] All normal
 SKIN:  [X] All normal
 MUSCULOSKELETAL:  [X] All normal
 NEURO:  [+] - once he is better his mental status returns to 
normal, he is no longer somnolent
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
Type I DM since age ___

 
Social History:
___
Family History:
No family history of GI disorders. 
 
Physical Exam:
================
ADMISSION EXAM:
================
Vitals:  T 97 P 96 BP 148/85  RR 24  SaO2 100% RA
BG was 200 and 215 
 GEN: Young male who looks miserable. He is constantly wretching 

 HEENT: ncat anicteric MMM  
 NECK:  supple
 CV: s1s2 tachy regular, no m/r/g  
 RESP: b/l ae no w/c/r  
 ABD: +bs, soft, NT, ND, no guarding or rebound  
 EXTR:no c/c/e 2+pulses  
 DERM: no rash  
 NEURO: face symmetric speech fluent  
 PSYCH: sleepy but when asked his is appropriate and 
cooperative.   
================
DISCHARGE EXAM:
================
Gen: comfortable
HEENT: EOMI, PERRLA, anicteric, oral mucosa without lesions, 
some cobblestoning of posterior oropharynx, normal dentition
Neck: supple, no nuchal rigidity, no LAD
Chest: CTAB, no accessory muscle use
Cards: RR, nl s1s2, no m/r/g, 2+ distal pulses, no edema
Abd: soft, nontender, not distended, BS+ in all quadrants, no 
hepatosplenomegaly appreciated
GU: no CVA tenderness
Skin: no rashes or skin lesions appreciated, insulin pump in 
place on left upper buttock/lower back
MSK: normal strength and ROM in all joints
Neuro: AAOx3, CNII-XII grossly intact, FTN intact, RAM intact, 
strength and sensation grossly intact in all extremities
Psych: calm, slightly flat affect, cooperative
 
Pertinent Results:
___ 07:20PM URINE  HOURS-RANDOM
___ 07:20PM URINE  HOURS-RANDOM
___ 07:20PM URINE  UHOLD-HOLD
___ 07:20PM URINE  GR HOLD-HOLD
___ 07:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-300 KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 07:20PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:20PM URINE  MUCOUS-RARE
___ 03:56PM   LACTATE-2.6*
___ 03:50PM   GLUCOSE-149* UREA N-13 CREAT-0.6 SODIUM-138 
POTASSIUM-3.2* CHLORIDE-102 TOTAL CO2-22 ANION GAP-17
___ 03:50PM   estGFR-Using this
___ 03:50PM   CK-MB-1 cTropnT-<0.01
___ 03:50PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 03:50PM   WBC-16.8* RBC-4.45* HGB-13.9 HCT-38.9* MCV-87 
MCH-31.2 MCHC-35.7 RDW-11.4 RDWSD-36.4
___ 03:50PM   NEUTS-78.9* LYMPHS-14.9* MONOS-4.9* EOS-0.1* 
BASOS-0.5 IM ___ AbsNeut-13.29* AbsLymp-2.51 AbsMono-0.82* 
AbsEos-0.01* AbsBaso-0.08
___ 03:50PM   PLT COUNT-407*
==================
DISCHARGE LABS:
___ 01:15PM BLOOD WBC-11.4* RBC-4.39* Hgb-13.7 Hct-39.2* 
MCV-89 MCH-31.2 MCHC-34.9 RDW-11.2 RDWSD-36.1 Plt ___
___ 01:15PM BLOOD Neuts-69.0 ___ Monos-9.3 Eos-0.2* 
Baso-0.6 Im ___ AbsNeut-7.88* AbsLymp-2.33 AbsMono-1.06* 
AbsEos-0.02* AbsBaso-0.07
___ 01:15PM BLOOD Glucose-234* UreaN-6 Creat-0.5 Na-136 
K-3.7 Cl-101 HCO3-28 AnGap-11
___ 01:15PM BLOOD ALT-10 AST-17 LD(LDH)-136 AlkPhos-67 
Amylase-68 TotBili-0.6
___ 01:15PM BLOOD Albumin-4.2 Calcium-9.5 Phos-2.9# Mg-2.3
___ 10:51PM BLOOD %HbA1c-6.7* eAG-146*
===================
IMAGING: none
===================
MICROBIO: none
 
Brief Hospital Course:
The patient is a ___ year old male with DM type I since age ___ 
previously followed at ___ now followed in ___ presents with 
sudden onset of nausea and vomiting in setting of chronic 
intermittent protracted nausea, vomiting, weight loss of unclear 
etiology which began in ___ presumed at first to be 
from marijuana use.  Of note, patient's mother reports that 
although the episodes of vomiting seem to be occurring with same 
frequency (~every 2 weeks), but seem to be decreasing in 
duration.
.
# Recurrent severe vomiting - resolved
- Reviewed extensive prior records from ___
- Tox screen here does not test for marijuana/THC but it was 
negative for everything else. 
- Serial troponins negative
- Lab results consistent with severe dehydration - all improved 
with aggressive fluid repletion
- Nausea/vomiting responded to IV fluids + dose of subcutaneous 
sumatriptan (6 mg)
- No further vomiting on ___, tolerated clears, then full 
liquids without any nausea, vomiting, or other complaints.
- Serum TSH and random cortisol level were pending at the time 
of discharge
.
# DM type I on insulin pump - well controlled on home regimen
- maintained on an insulin pump at home
- continued insulin pump with D5LR while NPO
- HgbA1c checked: 6.7%
- ___ Diabetes team saw the patient
- Patient had new site placed for insulin pump (prior site was 4 
days old)
- Will continue insulin pump with self-administration of boluses 
at home
.
# Tachycardia
- serial trops negative
- sinus tachycardia up to 120s on ___ without any associated 
symptoms, HR responded well to 1L IVNS bolus (improved to ___ 
he had very good UOP (> 100 cc/hr) while on continuous fluids.
.
# Hypokalemia - resolved with IV fluids and resolution of 
vomiting
# Hypomagnesemia - resolved with IV fluids and resolution of 
vomiting
# Hypercalcemia - resolved with IV fluids and resolution of 
vomiting
# Leukocytosis (WBC 16) - resolved with IV fluids and resolution 
of vomiting
.
TRANSITIONAL ISSUES:
[] Pending labs at discharge: TSH and random serum cortisol (1 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO QHS 
2. SUMAtriptan 20 mg/actuation nasal Unknown 

 
Discharge Medications:
1. Amitriptyline 10 mg PO QHS 
2. SUMAtriptan 20 mg/actuation nasal Unknown 
3. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nausea and vomiting
Dehydration
DM type I with hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Gen: comfortable
HEENT: EOMI, PERRLA, anicteric, oral mucosa without lesions, 
some cobblestoning of posterior oropharynx, normal dentition
Neck: supple, no nuchal rigidity, no LAD
Chest: CTAB, no accessory muscle use
Cards: RR, nl s1s2, no m/r/g, 2+ distal pulses, no edema
Abd: soft, nontender, not distended, BS+ in all quadrants, no 
hepatosplenomegaly appreciated
GU: no CVA tenderness
Skin: no rashes or skin lesions appreciated, insulin pump in 
place on left upper buttock/lower back
MSK: normal strength and ROM in all joints
Neuro: AAOx3, CNII-XII grossly intact, FTN intact, RAM intact, 
strength and sensation grossly intact in all extremities
Psych: calm, slightly flat affect, cooperative

 
Discharge Instructions:
You were admitted to the hospital with sudden onset of severe 
nausea and vomiting, consistent with your prior recent episodes. 
 You were found to be dehydrated and had some electrolyte 
disturbances, which improved with intravenous fluids.  Your 
nausea and vomiting resolved after admission, and you were able 
to tolerate a full liquid diet.  The ___ Diabetes team saw 
you to help with your diabetes management.  We recommend you 
continue to follow-up with your primary care doctor regarding 
your recurrent episodes of vomiting.
 
Followup Instructions:
___